US05225402
Acetic acid (30 ml) and 1-(1-benzyl-3-methyl-4-piperidinyl)carbostyril (2.1 g) are added to 10% palladiumcarbon (0.5 g) and the mixture is subjected to catalytic reduction at 80° C. under atmospheric pressure. After the catalytic reduction, 10% palladium-carbon is filtered off and the filtrate is concentrated under reduced pressure. Water is added to the residue and the mixture is basified with aqueous sodium hydroxide solution and then extracted with dichloromethane. After washed with water, the extract is dried with magnesium sulfate and the solvent is distilled off under reduced pressure to give 1-(3-methyl-4-piperidinyl)-3,4-dihydrocarbostyril (1.01 g).

reactant | 1-(1-benzyl-3-methyl-4-piperidinyl)carbostyril | 2.1 g | C(C1=CC=CC=C1)N1CC(C(CC1)N1C(=O)C=CC2=CC=CC=C12)C | C22H24N2O
catalyst | palladiumcarbon | 0.5 g | [C].[Pd]
solvent | Acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 1-(3-methyl-4-piperidinyl)-3,4-dihydrocarbostyril | 1.01 g | CC1CNCCC1N1C(=O)CCC2=CC=CC=C12 | C15H20N2O
